US06586421B2
(5aS*,10bS*)-10-[3-(2-chlorophenoxy)propyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
Following the procedure for the preparation of 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride, making non-critical variations, starting from 10-[3-(2-chlorophenoxy)propyl]-1,2,3,4, 5,6-hexahydroazepino[4,5-b]indole the title compound was prepared: 1H NMR (CDCl3) δ 1.99-2.20, 2.27, 2.78, 2.93-3.05, 3.51, 4.11, 6.48, 6.62, 6.92, 7.03, 7.19, 7.38, 7.40. HRMS (FAB) calcd for C21H25ClN2O1 (MH+) 357.1733, found 357.1749.

reactant | 10-(4-chlorophenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C=1C=2C3C(NC2C=CC1)CCNCC3
reactant | 10-[3-(2-chlorophenoxy)propyl]-1,2,3,4, 5,6-hexahydroazepino[4,5-b]indole | ClC1=C(OCCCC=2C=3C4=C(NC3C=CC2)CCNCC4)C=CC=C1 | C21H23ClN2O
product | (5aS*,10bS*)-10-[3-(2-chlorophenoxy)propyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | ClC1=C(OCCCC=2C=3[C@H]4[C@@H](NC3C=CC2)CCNCC4)C=CC=C1 | C21H25ClN2O
